US03985880
(2-Perimidyl)methyl N,N-dimethylcarbamate
A 10 g (0.44 mole) sample of 1H, 3H-oxazolo[3,4-a]perimidine, 3-one is dissolved in glyme at 30°, and the resulting solution is treated with excess 40% aqueous dimethylamine for 10 min. The mixture is then concentrated, dissolved in CHCl3, washed with water and dried. Further concentration gives an oil which is crystallized from ethyl acetate-cylcohexane and is then recrystallized from the same solvents twice to give the desired product, (2-perimidyl)methyl N,N-dimethylcarbamate, as yellow crystals, m.p. 161°-162° C.

reactant | 3H-oxazolo[3,4-a]perimidine | C1=CCC2=CC=CC3=NC=4N(C1=C32)COC4 | C13H10N2O
reactant | dimethylamine | CNC | C2H7N
reactant | glyme | C(OC)COC | C4H10O2
product | (2-perimidyl)methyl N,N-dimethylcarbamate | CN(C(OCC=1NC=2C=CC=C3C=CC=C(N1)C23)=O)C | C15H15N3O2
